US06057369
To a solution of (±)-N-hydroxy-3-(3,4-dimethoxyphenyl)sulfanyl-7-phenylheptanamide (1.26 g, 3.24 mmol) in anhydrous CH2Cl2 (20 mL) at 0° C. is added m-CPBA (0.56 g, 3.24 mmol) in one portion. The mixture is stirred for 10 minutes after which TLC analysis indicated complete reaction. Ethanol (2 mL) is added and the mixture is partitioned between water (100 mL) and EtOAc (100 mL). Aqueous layer is extracted with EtOAc (2×50 mL) and combined organic phases are washed successively with 5% aqueous Na2S2O3 (50 mL), water (50 mL), 5% aqueous NaHCO3 (50 mL), water (50 mL) and brine (50 mL) then dried over MgSO4 and concentrated. The resulting yellow oil is chromatographed on silica gel (CH2Cl2 →2% MeOH/CH2Cl2 →5% MeOH/CH2Cl2) to afford 0.5 g of (±)-N-hydroxy-3-(3,4-dimethoxyphenyl)sulfinyl-7-phenylheptanamide (38%) as a mixture (2:1) of diastereomers in the form of a white foam. TLC analysis [CH2Cl2 /MeOH, 19:1, Rf (sulfide)=0.20, Rf (sulfoxide)=0.10]. 1H NMR (300 MHz, d6 -DMSO) δ 1.35-1.72 (m, 6H), 1.88-2.20 (m, 2H), 2.49 (m, 2H), 3.05 (m, 1H), 3.78 (br s, 6H), 7.0-7.18 (m, 6H), 7.22 (m, 2H), 8.80 (m, 1H), 10.49 (m,1H) ppm. Mass spectrum (FAB) m/z 406 (M+H)+.

reactant | (±)-N-hydroxy-3-(3,4-dimethoxyphenyl)sulfanyl-7-phenylheptanamide | 3.24 mmol, 1.26 g | ONC(CC(CCCCC1=CC=CC=C1)SC1=CC(=C(C=C1)OC)OC)=O | C21H27NO4S
reactant | m-CPBA | 3.24 mmol, 0.56 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | Ethanol | 2 mL | C(C)O | C2H6O
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (±)-N-hydroxy-3-(3,4-dimethoxyphenyl)sulfinyl-7-phenylheptanamide | 0.5 g, 38% | ONC(CC(CCCCC1=CC=CC=C1)S(=O)C1=CC(=C(C=C1)OC)OC)=O | C21H27NO5S
